US08664233B2
12.6 (58.3 mmol) 4-bromo-2,6-difluorobenzonitrile, 6.8 g (61.5 mmol) glycinamide hydrochloride and 16.1 g (116.5 mmol) K2CO3 were suspended in 50 ml DMF and heated at 70° C. for 18 h. Having cooled down to room temperature, the solvent was concentrated and water was added. The resulting precipitate was sucked off and washed with water. 13.3 g (84%) 2-(5-bromo-2-cyano-3-fluorophenylamino)acetamide was obtained. ESI-MS [m/z]: 272, 274 [M+H]+

reactant | 4-bromo-2,6-difluorobenzonitrile | BrC1=CC(=C(C#N)C(=C1)F)F | C7H2BrF2N
reactant | glycinamide hydrochloride | 61.5 mmol, 6.8 g | Cl.NCC(=O)N
reactant | K2CO3 | 116.5 mmol, 16.1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-(5-bromo-2-cyano-3-fluorophenylamino)acetamide | 13.3 g, 84% | BrC=1C=C(C(=C(C1)NCC(=O)N)C#N)F | C9H7BrFN3O
